xsaroutc_reg\[0\] ( saroutc\[0\] 1000 n147 clockt resetn ) dffsbn 
xsaroutc_reg\[1\] ( saroutc\[1\] 1001 n146 clockt resetn ) dffsbn 
xsaroutc_reg\[7\] ( n397 			1002 n134 clockt resetn ) dffsbn 
xsaroutc_reg\[6\] ( saroutc\[6\] 1003 n139 clockt resetn ) dffsbn 
xsaroutc_reg\[5\] ( saroutc\[5\] 1004 n142 clockt resetn ) dffsbn 
xsaroutc_reg\[4\] ( saroutc\[4\] 1005 n538 clockt resetn ) dffsbn 
xsaroutc_reg\[3\] ( saroutc\[3\] 1006 n17  clockt resetn ) dffsbn 
xsaroutc_reg\[2\] ( saroutc\[2\] 1007 n145 clockt resetn ) dffsbn 
xfopt1785 ( saroutc\[7\] n397 ) buf6ck


xsaroutd_reg\[7\] ( n197 			1008 n593 clockt resetn ) dffsbn 
xsaroutd_reg\[6\] ( saroutd\[6\] 1009 n617 clockt resetn ) dffsbt
xsaroutd_reg\[5\] ( saroutd\[5\] n646 n93  clockt resetn ) dffsbn
xsaroutd_reg\[4\] ( saroutd\[4\] 1010 n90  clockt resetn ) dffsbn 
xtemptmr_reg\[7\] ( temptmr\[7\] n639 clockt resetn ) qdffrbn 
xsaroutd_reg\[3\] ( saroutd\[3\] 1011 n85 clockt resetn ) dffsbn 
xready_reg ( ready n631 clockt resetn ) qdffrbs
xsaroutd_reg\[2\] ( saroutd\[2\] 1012 n78 clockt resetn ) dffsbn 
xtemptmr_reg\[3\] ( temptmr\[3\] n660 clockt resetn ) qdffrbp
xtemptmr_reg\[2\] ( temptmr\[2\] n609 clockt resetn ) qdffrbp 
xtemptmr_reg\[5\] ( temptmr\[5\] n585 clockt resetn ) qdffrbp 
xsarouti_reg\[1\] ( sarouti\[1\] 1013 n654 clockt resetn ) dffsbn 
xsarouti_reg\[2\] ( sarouti\[2\] 1014 n65 clockt resetn ) dffsbn 
xsarouti_reg\[3\] ( sarouti\[3\] 1015 n64 clockt resetn ) dffsbn 
xsarouti_reg\[4\] ( sarouti\[4\] 1016 n559 clockt resetn ) dffsbn 
xsarouti_reg\[5\] ( 1017 n648 n653 clockt resetn ) dffsbn 
xsarouti_reg\[6\] ( sarouti\[6\] 1018 n655 clockt resetn ) dffsbt 
xsarouti_reg\[7\] ( n189 1019 n558 clockt resetn ) dffsbn 
xsaroutd_reg\[1\] ( saroutd\[1\] 1020 n68 clockt resetn ) dffsbn 
xsarouti_reg\[0\] ( sarouti\[0\] 1021 n479 clockt resetn ) dffsbn 
xsaroutd_reg\[0\] ( saroutd\[0\] 1022 n58 clockt resetn ) dffsbn 
xtemptmr_reg\[4\] ( temptmr\[4\] n448 clockt resetn ) qdffrbp 
xtemptmr_reg\[1\] ( temptmr\[1\] n445 clockt resetn ) qdffrbp 
xdataout_reg\[0\] ( dataout\[0\] 1023 dataout\[0\] n480 clockt n580 resetn ) dfzsbn 
xtimerout_reg\[0\] ( timerout\[0\] n641 clockt resetn ) qdffrbs 
xtimerout_reg\[1\] ( timerout\[1\] n635 clockt resetn ) qdffrbs 
xtimerout_reg\[2\] ( timerout\[2\] n644 clockt resetn ) qdffrbs 
xtimerout_reg\[3\] ( timerout\[3\] n643 clockt resetn ) qdffrbs 
xtimerout_reg\[4\] ( timerout\[4\] n633 clockt resetn ) qdffrbs 
xtimerout_reg\[5\] ( timerout\[5\] n636 clockt resetn ) qdffrbs 
xtimerout_reg\[6\] ( timerout\[6\] n642 clockt resetn ) qdffrbs 
xtimerout_reg\[7\] ( timerout\[7\] n634 clockt resetn ) qdffrbs 
xdataout_reg\[2\] ( dataout\[2\] n622 dataout\[2\] clockt n510 resetn ) qdfzrbn 
xdataout_reg\[1\] ( dataout\[1\] n476 dataout\[1\] clockt n510 resetn ) qdfzrbn 
xdataout_reg\[3\] ( dataout\[3\] sarout\[3\] dataout\[3\] clockt n510 resetn ) qdfzrbn 
xdataout_reg\[4\] ( dataout\[4\] n539 dataout\[4\] clockt n510 resetn ) qdfzrbn 
xdataout_reg\[5\] ( dataout\[5\] sarout\[5\] dataout\[5\] clockt n510 resetn ) qdfzrbn 
xdataout_reg\[6\] ( dataout\[6\] sarout\[6\] dataout\[6\] clockt n510 resetn ) qdfzrbn 
xdataout_reg\[7\] ( dataout\[7\] sarout\[7\] dataout\[7\] clockt n510 resetn ) qdfzrbn 
xflagtmr_reg ( n148 n659 clockt resetn ) qdffrbn 
xtemptmr_reg\[0\] ( temptmr\[0\] n447 clockt resetn ) qdffrbn 
xtemptmr_reg\[6\] ( temptmr\[6\] n647 n575 clockt resetn ) dffrbn

xg456 ( resetp reset ) buf1ck 
xg449 ( sarouti\[7\] n189 ) buf6ck 
xg457 ( saroutd\[7\] n197 ) buf6ck 
xg517 ( n135 n108 ) inv1s 
xg518 ( n108 statep\[1\] statep\[0\] ) nd2p 
xg519 ( n107 statep\[1\] ) inv3 
 
xg523 ( clockdcr clockt resetp n98 ) nr3t 

xg538 ( n98 n135 n579 ) nr2 
xg539 ( n134 sarout\[7\] ) inv1s 
xg540 ( resetn resetp ) inv2 
xg543 ( n147 n480 ) inv1s 
xg545 ( n145 n622 ) inv1 
xg546 ( n139 sarout\[6\] ) inv1s 
xg547 ( n142 sarout\[5\] ) inv1s 
 
xg1533 ( n96 sarout\[7\] n264 ) xor2hs 
 
xg1537 ( n93 n600 n469 ) nd2p 

xg1542 ( n90 n88 n469 ) nd2 
xg1545 ( n88 n615 n597 n215 saroutd\[4\] ) aoi22s 

xg1550 ( n85 n601 n469 ) nd2 
xg1553 ( n83 temptmr\[7\] n69 ) xnr2hs 
 
xg1560 ( n78 n560 n469 ) nd2 

xg1580 ( n69 n647 n495 ) nr2 

xg1582 ( n68 n561 n469 ) nd2 
xg1585 ( n65 n209 n622 n215 sarouti\[2\] ) moai1s 
xg1586 ( n64 n215 sarout\[3\] n215 sarouti\[3\] ) moai1s 

xg1593 ( n59 n597 n147 ) nd2 
xg1594 ( n58 n553 n469 ) nd2 

xg1624 ( n44 n208 n39 ) nr2 

xg1631 ( n39 n1 sarout\[5\] sarout\[6\] ) nd3 
xg1643 ( n28 n337 n476 n337 n476 ) moai1s 
xg1646 ( n26 n209 n197 ) nd2s 
xg1651 ( n3 n145 n146 ) nr2 
xg1652 ( n22 sarout\[4\] sarout\[5\] ) nr2 
xg1657 ( n17 sarout\[3\] ) inv2 
xg2 ( n4 sarout\[6\] n393 ) xor2 
xg1688 ( n1 n539 n17 ) an2b1s 
xg1692 ( n208 n3 sarout\[7\] ) nd2 
xfopt1699 ( n215 n597 ) inv4 
xg1731 ( n264 n626 sarout\[6\] n539 ) nr3h 
xg1753 ( n340 n622 n339 ) xor2hs 
xg1754 ( n339 n623 ) buf1ck 
xg24 ( n360 sarout\[5\] ) inv2 
xg1765 ( n365 n363 n364 ) nr2p 
xg21 ( n363 temptmr\[7\] temptmr\[5\] ) nd2p 
xg1766 ( n364 temptmr\[4\] temptmr\[6\] ) nd2 
xg1767 ( n370 n107 n474 ) nd2s 
xg1769 ( n367 dcr ) inv2 
xg28 ( n368 inc ) inv2 
xg1781 ( n393 n614 n392 ) nd2p 
xg1783 ( n392 n360 n539 ) an2b1s 
 
xg1793 ( n408 reset ) inv1s 
xg1804 ( n425 n534 temptmr\[1\] temptmr\[2\] ) nd3 
xg1808 ( n427 temptmr\[1\] n534 ) nd2 
xg1809 ( n428 temptmr\[1\] n534 ) xnr2hs 
xg1819 ( n436 temptmr\[3\] n425 ) xnr2hs 
xg1826 ( n445 n428 n631 ) nr2 
xg1827 ( n447 n637 n534 ) nd2 
xg1829 ( n448 n640 n472 ) an2 
xg1836 ( n454 statep\[0\] ) inv3 
xg1840 ( n467 n583 ) inv2 
xg1841 ( n469 n583 ) inv4 
xg1842 ( n472 temptmr\[4\] n611 ) xor2hs 
xg1845 ( n474 n368 n367 ) nd2 
xg1846 ( n476 n146 ) inv1 
xg4 ( n146 sarout\[1\] ) inv4 
xg30 ( n479 n477 n59 n478 ) nd3 
xg31 ( n477 n209 sarouti\[0\] ) nd2s 
xg32 ( n478 n44 n597 ) nd2s 
xg1847 ( n480 sarout\[0\] ) buf1ck 
xg1849 ( n337 sarout\[0\] ) inv2 
xg41 ( n484 reset n368 n367 ) aoi12s 
xg60 ( n491 temptmr\[1\] temptmr\[0\] ) nd2p 
xg55 ( n495 n547 temptmr\[5\] ) nd2p 
xg46 ( n498 sarout\[6\] sarout\[7\] n476 ) nr3 
xfopt1862 ( n510 n580 ) inv3ck 
xfopt1875 ( n534 temptmr\[0\] ) buf1 
xfopt1877 ( n538 n539 ) inv1s 
xfopt1881 ( n539 sarout\[4\] ) buf2 
xg1884 ( n547 temptmr\[4\] temptmr\[2\] temptmr\[3\] n491 ) an4b1 
xg1889 ( n211 n597 ) inv4 
xg1890 ( n553 n211 saroutd\[0\] n597 n480 ) aoi22s 
xg1895 ( n558 n211 sarout\[7\] n211 n189 ) moai1s 
xg1896 ( n559 n211 n539 n211 sarouti\[4\] ) moai1s 
xg1897 ( n560 n597 n340 n209 saroutd\[2\] ) aoi22s 
xg1898 ( n561 n597 n28 n209 saroutd\[1\] ) aoi22s 
xg1907 ( n575 n637 n574 ) an2b1s 
xg1908 ( n574 n495 temptmr\[6\] ) xor2hs 
xg20 ( n579 n484 n578 ) nr2 
xg1910 ( n578 n107 n454 ) nd2f 
xg1911 ( n580 n578 ) inv3 
xg1913 ( n583 n652 n605 ) nr2t 
xg1915 ( n585 n640 n656 ) an2 
xg1916 ( n586 sarout\[5\] ) buf1 
xg1919 ( n591 n215 saroutd\[6\] ) nd2s 
xg26 ( n593 n26 n467 n96 n209 ) oai112s 
xg64 ( n600 n657 n211 n215 n646 ) moai1 
xg73 ( n596 n578 n108 ) nd2p 
xg63 ( n601 n628 n597 n215 saroutd\[3\] ) aoi22s 
xg70 ( n209 n597 ) inv3 
xg71 ( n597 n596 ) buf6 
xg65 ( n605 n498 n596 ) nd2s 
xg66 ( n607 n606 n370 ) nd2p 
xg72 ( n606 n578 n108 ) nd2p 
xg1921 ( n609 n640 n608 ) an2 
xg1922 ( n608 temptmr\[2\] n427 ) xnr2hs 
xg14 ( n611 n610 n491 ) nr2t 
xg15 ( n610 temptmr\[2\] temptmr\[3\] ) nd2p 
xg1923 ( n613 n539 n625 ) nr2 
xg1925 ( n614 n625 ) inv2 
xg29 ( n615 n539 n614 ) xnr2hs 
xg1926 ( n617 n616 n469 n591 ) nd3p 
xg1927 ( n616 n4 n597 ) nd2p 
xg1929 ( n622 sarout\[2\] ) buf3 
xg1930 ( n623 n337 n146 ) nd2t 
xg1931 ( n625 n624 n17 ) nd2p 
xg1932 ( n624 n622 n623 ) nr2f 
xg1933 ( n626 n624 n17 n360 ) nd3 
xg1934 ( n628 n627 sarout\[3\] n627 sarout\[3\] ) moai1s 
xg1848_dup ( n627 n622 n623 ) nr2 
xg1935 ( n629 n611 n365 ) nd2t 
xg1936 ( n630 n607 n658 ) nd2t 
xg1938 ( n631 n629 n630 ) nd2f 
xg1939 ( n633 n631 timerout\[4\] temptmr\[4\] ) mux2 
xg1940 ( n634 n631 timerout\[7\] temptmr\[7\] ) mux2 
xg1941 ( n635 n631 timerout\[1\] temptmr\[1\] ) mux2 
xg1942 ( n636 n631 timerout\[5\] temptmr\[5\] ) mux2 
xfopt1943 ( n637 n631 ) inv2 
xg1944 ( n639 n638 n83 ) nr2 
xg11_dup ( n638 n629 n630 ) nd2t 
xfopt1945 ( n640 n638 ) inv2ck 
xg1946 ( n641 n638 timerout\[0\] n534 ) mux2 
xg1947 ( n642 n638 timerout\[6\] temptmr\[6\] ) mux2 
xg1948 ( n643 n638 timerout\[3\] temptmr\[3\] ) mux2 
xg1949 ( n644 n638 timerout\[2\] temptmr\[2\] ) mux2 
 
xg13 ( sarouti\[5\] n648 ) inv3 
xg1953 ( n652 n622 sarout\[3\] n22 ) or3b1s 
xg1954 ( n653 n211 n142 sarouti\[5\] ) mux2 
xg1955 ( n654 n215 n146 sarouti\[1\] ) mux2 
xg1956 ( n655 n211 n139 sarouti\[6\] ) mux2 
xg1957 ( n656 temptmr\[5\] n547 ) xor2 
xg1958 ( n657 n613 n586 ) xnr2hs 
xg1959 ( n658 n408 n148 ) an2b1 
xg1960 ( n659 n631 n607 n408 ) ao12 
xg1961 ( n660 n436 n630 ) an2 
ends sartimerverilog
